US09102623B2
A19.1) 1-Butoxy-4-chloro-4,5,5,5-tetrafluoropent-1-en-3-one
With stirring and at 0° C., 9.59 g (48.2 mmol) of 2-chlorotetrafluoropropionyl chloride were added dropwise to a mixture of 4.19 g (50.0 mmol) of pyridine and 4.83 g (48.2 mmol) of butyl vinyl ether in 75 ml of dichloromethane. After the addition, stirring was continued at room temperature for another 15 h. The mixture was then washed with 1N hydrochloric acid and 2×100 ml of water, and the organic phase was separated off, dried and concentrated. This gave 6.33 g (50% of theory) of a brown oil.

reactant | 2-chlorotetrafluoropropionyl chloride | 48.2 mmol, 9.59 g | ClC(C(=O)Cl)(C(F)(F)F)F | C3Cl2F4O
reactant | pyridine | 50.0 mmol, 4.19 g | N1=CC=CC=C1 | C5H5N
reactant | butyl vinyl ether | 48.2 mmol, 4.83 g | C(=C)OCCCC | C6H12O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-Butoxy-4-chloro-4,5,5,5-tetrafluoropent-1-en-3-one | C(CCC)OC=CC(C(C(F)(F)F)(F)Cl)=O | C9H11ClF4O2
